US05134111
(a) 1-(t-butyldimethylsilyl)oxymethyl-4-methoxymethoxy-5-methyl-3-naphthalenecarbaldehyde
52 ml of a hexane solution of 1.6M n-butyl lithium was dropped in an absolute ether (110 ml) solution of 19 g of 1-(t-butyldimethylsilyl)oxymethyl-4-methoxymethoxy-5-methylnaphthalene and agitated for 1 hour. After ice cooling, 8.5 ml of N,N-dimethylformamide was dropped in the reaction solution and the ice bath was removed, followed by agitation for 1 hour until room temperature was reached. Iced water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate. After removal of the solvent by distillation, the residue was purified by silica gel column chromatography (2% ethyl acetate/hexane) to obtain 14.1 g of the captioned compound as a brown oily substance.

reactant | hexane | 52 ml | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | ether | 110 ml | CCOCC | C4H10O
reactant | 1-(t-butyldimethylsilyl)oxymethyl-4-methoxymethoxy-5-methylnaphthalene | 19 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C2=C(C=CC=C12)C)OCOC | C20H30O3Si
solvent | N,N-dimethylformamide | 8.5 ml | CN(C=O)C | C3H7NO
product | 1-(t-butyldimethylsilyl)oxymethyl-4-methoxymethoxy-5-methyl-3-naphthalenecarbaldehyde | 14.1 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(C2=C(C=CC=C12)C)OCOC)C=O | C21H30O4Si
